US08211885B2
Step 1: 2-Chloro-1-cyclohex-2-enyl-1H-indole-3-carbaldehyde
To a solution of 2-chloro-1H-indole-3-carbaldehyde (2.00 g, 11.1 mmol) in DMF (15 ml) was added sodium hydride (468 mg, 11.7 mmol, 60% dispersion in mineral oil). Under an argon atmosphere, the suspension was stirred at 40° C. for 20 min and then allowed to cool to room temperature. After the addition of 3-bromocyclohexene (2.56 ml, 22.3 mmol) the reaction mixture was stirred at room temperature for 1 h. The mixture was then quenched with water and extracted with EA. The organic layer was separated, dried over sodium sulfate, filtered and evaporated. The residue was and purified by silica gel chromatography (EA/HEP 1:10). 1.13 g of the title compound were obtained.

reactant | 2-chloro-1H-indole-3-carbaldehyde | 11.1 mmol, 2.00 g | ClC=1NC2=CC=CC=C2C1C=O | C9H6ClNO
reactant | sodium hydride | 11.7 mmol, 468 mg | [H-].[Na+]
reactant | 3-bromocyclohexene | 22.3 mmol, 2.56 ml | BrC1C=CCCC1 | C6H9Br
solvent | DMF | 15 ml | CN(C)C=O | C3H7NO
product | 2-Chloro-1-cyclohex-2-enyl-1H-indole-3-carbaldehyde | 1.13 g | ClC=1N(C2=CC=CC=C2C1C=O)C1C=CCCC1 | C15H14ClNO
